US06492041B2
Triphenylene and N-bromosuccinimide were introduced to mixture (4:1) of water and sulfuric acid and stirred for five hours at 60° C. The object compound was extracted from the reacted solution using toluene and neutralized with 5% sodium hydrogencarbonate solution. After drying the compound by using magnesium sulfate, coarse crystals of the compound, left after evaporation of the solvent, were recrystallized from the toluene-hexane mixed solvent, to prepare 2-bromotriphenylene compound. Thereafter, the 2-bromotriphenylene compound, diphenylamine, potassium carbonate and copper powder were introduced in a three-necked flask, and stirred for 30 hours at 200° C. The reaction product was subjected to extraction using toluene and to washing using water. Then, the product was subjected to drying using magnesium sulfate, evaporation of the solvent, and separation refinement by silica gel column chromatography using a 1:2 mixture of toluene and hexane to obtain 2-diphenylaminotriphenylene.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-bromotriphenylene | BrC1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C18H11Br
reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | 2-diphenylaminotriphenylene | C1(=CC=CC=C1)N(C1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1)C1=CC=CC=C1 | C30H21N
